US06235771B1
In DMF (75 ml) was dissolved 4-bromophenol (7.5 g). To the mixture were added at room temperature potassium carbonate (7.2 g) and sodium iodide (6.5 g) and then was added dropwise 2-chloro-5-chloromethyl thiophene (6.5 g), and the mixture was stirred at 90° C. for 6 hours and cooled to room temperature. The reaction mixture was added to water, and the mixture was extracted with ethyl acetate, washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated, and the residue was purified with silica gel column chromatography (hexane/ethyl acetate=10/1) to give 4-bromophenyl (5-chloro-2-thienyl)methyl ether (8.2 g).

reactant | 4-bromophenol | 7.5 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | potassium carbonate | 7.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 6.5 g | [I-].[Na+]
reactant | 2-chloro-5-chloromethyl thiophene | 6.5 g | ClC=1SC(=CC1)CCl | C5H4Cl2S
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-bromophenyl (5-chloro-2-thienyl)methyl ether | 8.2 g | ClC1=CC=C(S1)COC1=CC=C(C=C1)Br | C11H8BrClOS
